US07943788B2
A solution of 3-(difluoromethoxy)benzene (3.0 g) and triisopropoxyborane (2.78 g) in tetrahydrofuran (15 ml) was cooled to −78° C. under argon atmosphere, and thereto was added a solution of n-butyl lithium (1.59 M hexane solution, 9.3 ml). The mixture was stirred at same temperature for 10 minutes, warmed, and further stirred at room temperature overnight. Thereto was added 3N aqueous hydrochloric acid solution (10 ml), and the mixture was stirred at room temperature for 5 minutes. The mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was crystallized from hexane to give 3-difluoromethoxybenzene-boronic acid (1.6 g) as colorless crystals.

reactant | 3-(difluoromethoxy)benzene | 3.0 g | FC(OC=1C=CC=CC1)F | C7H6F2O
reactant | triisopropoxyborane | 2.78 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyl lithium | 1.59 M, 9.3 ml | C(CCC)[Li]
reactant | hydrochloric acid | 3N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-difluoromethoxybenzene-boronic acid | 1.6 g | FC(OC=1C=C(C=CC1)B(O)O)F | C7H7BF2O3
